US04118461
1-[β-(2,4-dichlorophenyl)hexyl]-4-nitroimidazole
To 1.3g (0.0307 mole) of sodium hydroxide in 150 ml of methanol is added 3.5g (0.0307 mole) of 4-nitroimidazole, and the solution is heated and the methanol distilled off. To the concentrate is added 100 ml of dimethyl formamide and the solution is heated up to 120° to remove the excess methanol and water. This dimethyl formamide solution is then cooled to less than 90° and 10.0g (of 0.0307 mole) of 2-(2,4-dichlorophenyl)hexyl methane sulfonate is added. The reaction mixture is heated up to 145° for 2 hours and then cooled and poured into water. The organic material is extracted out with ether and after drying, the extract is stripped to give 11.2g of residue. The concentrate is triturated with hexane and then dissolved in 25 ml of methanol. The methanol solution is poured slowly into water and a gummy solid forms. This solid is separated by filtration, dried and recrystallized from acetone-hexane to give 4.2g (41%) of the product, m.p. 67°-9°.

reactant | sodium hydroxide | 0.0307 mole, 1.3g | [OH-].[Na+]
reactant | 4-nitroimidazole | 0.0307 mole, 3.5g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | 2-(2,4-dichlorophenyl)hexyl methane sulfonate | 0.0307 mole, 10.0g | CS(=O)(=O)OCC(CCCC)C1=C(C=C(C=C1)Cl)Cl | C13H18Cl2O3S
reactant | water | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | 1-[β-(2,4-dichlorophenyl)hexyl]-4-nitroimidazole | 11.2g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC(=C1)[N+](=O)[O-])CCCC | C15H17Cl2N3O2
